US04400519
Benzil-di(β-bromoethyl)ketal (8.84 g) and 7.4 g of potassium phthalimide were dissolved in 50 ml of DMF, and reacted at 50° to 60° C. for 6 hours. When the reaction mixture was poured into 100 ml of ice water, white crystals formed. The crystals were collected by filtration, well washed with water, and dried to give 11 g of benzil-di(β-phthalimidoethyl)ketal in a yield of 96%. Recrystallization from a mixture of ethanol and chloroform afforded crystals having a melting point of 132° to 134° C. The product is referred to as initiator 2.

reactant | Benzil-di(β-bromoethyl)ketal | 8.84 g | BrCCOC(C1=CC=CC=C1)(C(=O)C1=CC=CC=C1)OCCBr | C18H18Br2O3
reactant | potassium phthalimide | 7.4 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | benzil-di(β-phthalimidoethyl)ketal | 11 g, yield of 96% | C1(C=2C(C(N1CCOC(C1=CC=CC=C1)(C(=O)C1=CC=CC=C1)OCCN1C(C=3C(C1=O)=CC=CC3)=O)=O)=CC=CC2)=O | C34H26N2O7
